US06251926B1
To a solution of 3-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenyl]propanol (1.00 g) and triethylamine (0.866 ml) in ethyl acetate (30 ml), methanesulfonyl chloride (0.478 ml) was added dropwise at 0° C., and the mixture was stirred for 1 hour. The reaction mixture was washed with saturated aqueous sodium chloride, dried (MgSO4), and then concentrated. The residue was dissolved in N,N-dimethylformamide (10 ml), and methyl Z-2-hydroxyimino-2-phenylacetate (830 mg) and sodium hydride (60%, in oil, 185 mg) were added, and the mixture was stirred for 2 hours at room temperature. After adding 1N HCl (7 ml) and then aqueous sodium bicarbonate, the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride, dried (MgSO4) and then concentrated. The residue was subjected to column chromatography on silica gel to obtain a colorless oil from a fraction eluted with ethyl acetate-hexane-toluene (1:5:5, v/v). This oil was dissolved in tetrahydrofuran (10 ml)-methanol (5 ml), and 1N aqueous solution of sodium hydroxide (5 ml) was added, and then the mixture was stirred for 2 hour at 40° C. After adding 1N HCl (5.5 ml) to the reaction mixture, the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride, dried (MgSO4) and then concentrated. The residual crystal was recrystallized from ethyl acetate-hexane to obtain Z-2-[3-[4-(5-methyl-2-phenyl4-oxazolylmethoxy)phenyl]propoxyimino]-2-phenylacetic acid (1.13 g, yield 78%) as colorless crystals. m.p. 165-166° C. (decomposition)

reactant | 3-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenyl]propanol | 1.00 g | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(C=C1)CCCO | C20H21NO3
reactant | triethylamine | 0.866 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
solvent | methanesulfonyl chloride | 0.478 ml | CS(=O)(=O)Cl | CH3ClO2S
product | Z-2-[3-[4-(5-methyl-2-phenyl4-oxazolylmethoxy)phenyl]propoxyimino]-2-phenylacetic acid | 1.13 g, yield 78% | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(C=C1)CCCO\N=C(/C(=O)O)\C1=CC=CC=C1 | C28H26N2O5
